US04126687
A mixture of 20 parts of 5-chloro-1,3-dihydro-1-(3-hydroxypropyl)-2H-benzimidazol-2-one, 34 parts of sulfinyl chloride and 300 parts of trichloromethane is stirred and refluxed for 4 hours. The trichloromethane is evaporated and the residue is crystallized from 4-methyl-2-pentanone (activated charcoal). The product is filtered off (the filtrate is set aside), yielding a first fraction of 8.2 parts of 5-chloro-1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one. The filtrate, which was set aside, is concentrated and the concentrate is stirred with 2,2'-oxybispropane. The precipitated product is filtered off and dried, yielding a second fraction of 8 parts of 5-chloro-1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one.

reactant | 5-chloro-1,3-dihydro-1-(3-hydroxypropyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)CCCO)C=C1 | C10H11ClN2O2
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 5-chloro-1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)CCCCl)C=C1 | C10H10Cl2N2O
